US07157487B2
(Step 2) Synthesis of (2S,4S)-1-tert-butoxycarbonyl-4-phenoxy-2-pyrrolidinylcarboxylic acid
To a solution of methyl (2S,4S)-1-tert-butoxycarbonyl-4-phenoxy-2-pyrrolidinylcarboxylate (5.31 g, 16.5 mmol) in THF (132 ml) was added 0.25N NaOH (132 ml, 33.0 mmol). The reaction mixture was stirred overnight at room temperature. The residue obtained by concentrating the reaction mixture under reduced pressure was acidified with 1N HCl, followed by extraction with chloroform. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The crude crystals thus obtained were recrystallized from hexane-chloroform, whereby the title compound (2.96 g, 58%) was obtained as a white crystalline powder.

reactant | methyl (2S,4S)-1-tert-butoxycarbonyl-4-phenoxy-2-pyrrolidinylcarboxylate | 16.5 mmol, 5.31 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC1=CC=CC=C1)C(=O)OC | C17H23NO5
reactant | NaOH | 33.0 mmol, 0.25N, 132 ml | [OH-].[Na+]
solvent | THF | 132 ml | C1CCOC1 | C4H8O
product | (2S,4S)-1-tert-butoxycarbonyl-4-phenoxy-2-pyrrolidinylcarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC1=CC=CC=C1)C(=O)O | C16H21NO5
